US04810423
1,2β-methylen-4,5-epoxyandrost-6-ene-3,17-dione [II, R1 =R2 =H; (a)=single bond; (b)=double bond].
To a cooled solution of 1,2β-methylenandrosta-4,6-diene-3,17-dione (2.964 g, 10 mmol) in 120 ml methanol ice cold 36% H2O2 (10 ml) and 2% NaOH (5 ml) is added gradually under stirring and then the mixture allowed to stand at 0°-5° C. for about 20 hours. Then the reaction mixture is poured onto ice, the raw product filtered off, washed with water, dried and purified by column chromatography on silica gel, using CHCl3 as eluant. Thus 2.655 g (85%) of pure title compound is obtained.

reactant | 1,2β-methylenandrosta-4,6-diene-3,17-dione | 10 mmol, 2.964 g | C1C2[C@H]1C(C=C1C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H24O2
reactant | NaOH | 5 ml | [OH-].[Na+]
product | 1,2β-methylen-4,5-epoxyandrost-6-ene-3,17-dione | 2.655 g, 85% | C1C2[C@H]1C(C1C3(C=C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@@]23C)=O)O1)=O | C20H24O3
